US07763639B2
3-(1-PROPYLPIPERIDIN-4-YL)PHTHALONITRILE
To a solution of 4-[2-fluoro-3-(methylsulfonyl)phenyl]-1-propylpiperidine (0.2 g, 0.67 mmol) in N,N-dimethylformamide (30 ml) was added sodium cyanide (0.82 g, 1.67 mmol) and 18-crown-6-ether (5 mg). The mixture was heated at reflux for 15 h and then brought to ambient temperature. Aqueous sodium carbonate (10%, 50 ml) was added and the phases were separated. The aqueous phase was extracted with ethylacetate (2×50 ml) and the combined organic phases was dried (MgSO4) and evaporated under reduced pressure to give an oil. Purification by flash column chromatography (ethylacetate/methanol, 1:1) gave the title compound: 0.07 g (41%). MS m/z (relative intensity, 70 eV) 253 (M+, 3), 225 (17), 224 (bp), 154 (6), 70 (12).

reactant | 4-[2-fluoro-3-(methylsulfonyl)phenyl]-1-propylpiperidine | 0.67 mmol, 0.2 g | FC1=C(C=CC=C1S(=O)(=O)C)C1CCN(CC1)CCC | C15H22FNO2S
reactant | sodium cyanide | 1.67 mmol, 0.82 g | [C-]#N.[Na+]
reactant | 18-crown-6-ether | 5 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | sodium carbonate | 50 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 3-(1-PROPYLPIPERIDIN-4-YL)PHTHALONITRILE | C(CC)N1CCC(CC1)C1=C(C(C#N)=CC=C1)C#N | C16H19N3
